US08877782B2
N-Cyclopropylmethyl-6-(3-phenyl-5-trifluoromethyl-isoxazol-4-ylmethoxy)-nicotinamide
A solution of trimethylaluminium (2 M in toluene, 529 μL, 1.1 mmol) was added dropwise (exothermic) to a solution of cyclopropanemethylamine (75 mg, 91 μL, 1.1 mmol) in dioxane (7 mL) and the resulting mixture was stirred at room temperature for 1 h. Then a solution of 6-(3-phenyl-5-trifluoromethyl-isoxazol-4-ylmethoxy)-nicotinic acid methyl ester (100 mg, 0.26 mmol) in dioxane (4 mL) was added. The resulting mixture was then heated at 85-95° C. for 6 h and then cooled to room temperature and then poured into water and extracted with ethyl acetate which was then washed with brine, dried over sodium sulfate and evaporated. Purification by chromatography (SiO2, heptane:ethyl acetate=100:0 to 1:1) afforded the title compound (92 mg, 83%) which was obtained as an off white solid. MS: m/e=418.3 [M+H]+.

reactant | trimethylaluminium | 1.1 mmol, 2 M, 529 μL | C[Al](C)C
reactant | cyclopropanemethylamine | 1.1 mmol, 91 μL, 75 mg | C1(CC1)CN | C4H9N
reactant | 6-(3-phenyl-5-trifluoromethyl-isoxazol-4-ylmethoxy)-nicotinic acid methyl ester | 0.26 mmol, 100 mg | COC(C1=CN=C(C=C1)OCC=1C(=NOC1C(F)(F)F)C1=CC=CC=C1)=O | C18H13F3N2O4
reactant | water | O | H2O
solvent | dioxane | 7 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
product | N-Cyclopropylmethyl-6-(3-phenyl-5-trifluoromethyl-isoxazol-4-ylmethoxy)-nicotinamide | 92 mg, 83% | C1(CC1)CNC(C1=CN=C(C=C1)OCC=1C(=NOC1C(F)(F)F)C1=CC=CC=C1)=O | C21H18F3N3O3
